US05807859
The process is performed as in Example 33 but starting with 0.48 g of 10-methyl-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one, 25 ml of dimethylformamide, 0.33 g of 80% sodium hydride, 0.30 ml of trimethylchlorosilane, 0.25 ml of 1-bromo-3-chlorobutane and 0.15 g of imidazole. After chromatography on a column of silica (20 g), eluting with a mixture of chloroform, methanol and 28% aqueous ammonia (90/7/3 by volume), 0.26 g of 10-[4-(imidazol-1-yl)butyl]-10-methyl-5H,10H-imidazo[1,2-a]indeno-[1,2-e]pyrazin-4-one is obtained in the form of a cream-coloured solid melting at about 160° C. (Analysis, % calculated C: 70.18, H: 5.89, N: 19.48, O: 4.45, % found C: 70.3, H: 6.0, N: 19.6).

reactant | 10-methyl-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 0.48 g | CC1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C14H11N3O
reactant | sodium hydride | 0.33 g | [H-].[Na+]
reactant | trimethylchlorosilane | 0.30 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | 1-bromo-3-chlorobutane | 0.25 ml | BrCCC(C)Cl | C4H8BrCl
reactant | imidazole | 0.15 g | N1C=NC=C1 | C3H4N2
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 10-[4-(imidazol-1-yl)butyl]-10-methyl-5H,10H-imidazo[1,2-a]indeno-[1,2-e]pyrazin-4-one | 0.26 g | N1(C=NC=C1)CCCCC1(C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O)C | C21H21N5O
